US07557213B2
Step 3: Synthesis of 1-(6-bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-2-methyl-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 57 mg (0.20 mmol) of 3-(3,4-dimethyl-benzoyl)-2-methyl-1H-quinolin-4-one, 9 mg (0.24 mmol) of 60% sodium hydride, 59 mg of 2-bromo-6-bromomethyl-pyridine and 0.7 mL of N,N-dimethylformamide. Yield: 44 mg of a white solid: LC-MSD, m/z for C25H21BrN2O2 [M+H]+=461.1, 463.1; HPLC retention time: 2.7 min.

reactant | 3-(3,4-dimethyl-benzoyl)-2-methyl-1H-quinolin-4-one | 0.20 mmol, 57 mg | CC=1C=C(C(=O)C2=C(NC3=CC=CC=C3C2=O)C)C=CC1C | C19H17NO2
reactant | sodium hydride | 0.24 mmol, 9 mg | [H-].[Na+]
reactant | 2-bromo-6-bromomethyl-pyridine | 59 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 1-(6-bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-2-methyl-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C(=C(C(C2=CC=CC=C12)=O)C(C1=CC(=C(C=C1)C)C)=O)C | C25H21BrN2O2
